US05123951
Ethyl 2-(chlorocarbonyl)butanoate (5.8 grams, 0.03 mole), 4-bromo-2-methylaniline (5.0 grams, 0.03 mole) and triethylamine (3.27 grams, 0.03 mole) were reacted under conditions similar to that described for Example I to give 7.4 grams (0.02 mole) of ethyl 2-(4-bromo-2-methylphenylaminocarbonyl)butanoate as a white solid having a melting point of 98° C.-100° C.

reactant | Ethyl 2-(chlorocarbonyl)butanoate | 0.03 mole, 5.8 grams | ClC(=O)C(C(=O)OCC)CC | C7H11ClO3
reactant | 4-bromo-2-methylaniline | 0.03 mole, 5.0 grams | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | triethylamine | 0.03 mole, 3.27 grams | C(C)N(CC)CC | C6H15N
product | ethyl 2-(4-bromo-2-methylphenylaminocarbonyl)butanoate | 0.02 mole, 7.4 grams | BrC1=CC(=C(C=C1)NC(=O)C(C(=O)OCC)CC)C | C14H18BrNO3
